US04379765
8-Chloro-6-(2-fluorophenyl)-2H,4H-pyrazolo[3,4-d][2]benzazepine
A mixture of 2.0 g (6.1 mmole) of 4-[2-(2-fluorobenzoyl)-4-chlorophenyl]-1H-pyrazole-3-carbonitrile, ca 2 g. of Raney nickel, and 100 ml of acetic acid was hydrogenated on a Parr apparatus for 4 hr. The Raney nickel was removed by filtration and the acetic acid was removed at reduced pressure to give a yellow oil. The yellow oil was poured over ice, basified with ammonium hydroxide, and extracted with methylene chloride. The methylene chloride solution was washed with water, dried with anhydrous sodium sulfate, and concentrated at reduced pressure to give a pale yellow solid. Recrystallization from a mixture of ether and methylene chloride gave cream colored prisms, mp 208°-210°.

reactant | 4-[2-(2-fluorobenzoyl)-4-chlorophenyl]-1H-pyrazole-3-carbonitrile | 6.1 mmole, 2.0 g | FC1=C(C(=O)C2=C(C=CC(=C2)Cl)C=2C(=NNC2)C#N)C=CC=C1 | C17H9ClFN3O
reactant | ammonium hydroxide | [OH-].[NH4+]
catalyst | Raney nickel | [Ni] | Ni
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 8-Chloro-6-(2-fluorophenyl)-2H,4H-pyrazolo[3,4-d][2]benzazepine | ClC1=CC2=C(C=3C(CN=C2C2=C(C=CC=C2)F)=NNC3)C=C1 | C17H11ClFN3
